US04003909
A suspension of 5.0 g. (0.02 mole) of 5-phenyl-3-(4-nitrophenyl)-1,2,4-oxadiazole, from part (a), in 200 ml. of 95% ethanol containing 0.5 g. of 5% Pd/C and 3ml. of concentrated HCl is hydrogenated on the Parr hydrogenator at 50 psi. over a period of 1 hour. The catalyst is removed by filtration followed by removal of the ethanol by distillation in vacuo to yield the 5-phenyl-3-(4-aminophenyl)-1,2,4-oxadiazole.

reactant | 5-phenyl-3-(4-nitrophenyl)-1,2,4-oxadiazole | 0.02 mole | C1(=CC=CC=C1)C1=NC(=NO1)C1=CC=C(C=C1)[N+](=O)[O-] | C14H9N3O3
reactant | HCl | Cl | ClH
catalyst | Pd/C | [Pd] | Pd
solvent | ethanol | 0.5 g | C(C)O | C2H6O
product | 5-phenyl-3-(4-aminophenyl)-1,2,4-oxadiazole | C1(=CC=CC=C1)C1=NC(=NO1)C1=CC=C(C=C1)N | C14H11N3O
